US08278343B2
Preparation 78: 1-Cyclopentanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 76 using cyclopentanecarbonyl chloride and 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 65) to afford the racemate as a white solid (120 mg, 94%)

reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
product | 1-Cyclopentanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(=O)C1CCCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C26H30FNO4
